US09169245B2
To a stirred solution of methyl 3-[(2-fluoro-N-[(3R)-quinuclidin-3-yl]oxycarbonyl-anilino)methyl]benzoate (4.12 g, 10 mmol) in tetrahydrofuran (45 mL) and methanol (45 mL) was added lithium hydroxide hydrate (839 mg, 20 mmol) in water (18 mL), and the mixture was stirred at room temperature for 24 hours. The solvent was removed in vacuo and the residue was purified using an SCX-2 cartridge eluting sequentially with methanol and 7 N methanolic ammonia. The product was triturated with THF (×5) and diethyl ether to give 3-[(2-fluoro-N-[(3R)-quinuclidin-3-yl]oxycarbonyl-anilino)methyl]benzoic acid (3.51 g, 88%) as a white solid. To a solution of 3-[(2-fluoro-N-[(3R)-quinuclidin-3-yl]oxycarbonyl-anilino)methyl]benzoic acid (76 mg, 0.19 mmol) in DMF (2 mL) was then added [(1S)-2-(3,5-dichloro-1-oxido-pyridin-1-ium-4-yl)-1-(3,4-dimethoxyphenyl)ethyl](2S)-piperidine-2-carboxylate hydrochloride (Int 6, 93 mg, 0.19 mmol), followed by DMAP (11 mg, 0.1 mmol) and EDC (72 mg, 0.37 mmol). The mixture was allowed to stir at room temperature for 5 hours, and then the solvent was removed in vacuo. The residue was partitioned between ethyl acetate (10 mL) and saturated sodium bicarbonate solution (10 mL). The separated organic phase was passed through a hydrophobic frit and the solvent was removed in vacuo. Purification was achieved by preparative HPLC to afford the title compound as a white solid (66 mg, 42%).

reactant | methyl 3-[(2-fluoro-N-[(3R)-quinuclidin-3-yl]oxycarbonyl-anilino)methyl]benzoate | 10 mmol, 4.12 g | FC1=C(N(C(=O)O[C@H]2CN3CCC2CC3)CC=3C=C(C(=O)OC)C=CC3)C=CC=C1 | C23H25FN2O4
reactant | lithium hydroxide hydrate | 20 mmol, 839 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran | 45 mL | O1CCCC1 | C4H8O
solvent | methanol | 45 mL | CO | CH4O
solvent | water | 18 mL | O | H2O
product | 3-[(2-fluoro-N-[(3R)-quinuclidin-3-yl]oxycarbonyl-anilino)methyl]benzoic acid | 3.51 g, 88% | FC1=C(N(C(=O)O[C@H]2CN3CCC2CC3)CC=3C=C(C(=O)O)C=CC3)C=CC=C1 | C22H23FN2O4
